US07179823B1
Thionyl chloride (0.73 ml) was added slowly to a mixture of 3-ethoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl alcohol (3.05 g), tetrahydrofuran (25 ml) and toluene (50 ml) at room temperature, which was stirred at 80° C. for 30 minutes. After cooling, the reaction mixture was poured into an aqueous saturated sodium bicarbonate solution, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium bicarbonate solution, dried (MgSO4) and concentrated to obtain 4-(4-chloromethyl-2-ethoxyphenoxymethyl)-5-methyl-2-phenyloxazole (2.94 g, yield 91%) as colorless crystals. This was recrystallized from tetrahydrofuran-hexane. Melting point: 138–139° C.

reactant | Thionyl chloride | 0.73 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-ethoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl alcohol | 3.05 g | C(C)OC=1C=C(CO)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C20H21NO4
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-chloromethyl-2-ethoxyphenoxymethyl)-5-methyl-2-phenyloxazole | 2.94 g, yield 91% | ClCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1)OCC | C20H20ClNO3
